US06242450B1
1-(3-(indol-4-yloxy)prop-1-yl)-4-hydroxy-4-(quinolin-3-yl)piperidine
Beginning with 0.253 gm (1.2 mMol) 3-chloropropyl indol-4-yl ether and 0.275 gm (1.2 mMol) 4-hydroxy-4-(quinolin-3-yl)piperidine, 0.253 gm (52%) of the title compound were recovered as a white solid.

reactant | 3-chloropropyl indol-4-yl ether | 1.2 mMol, 0.253 gm | N1C=CC2=C(C=CC=C12)OCCCCl | C11H12ClNO
reactant | 4-hydroxy-4-(quinolin-3-yl)piperidine | 1.2 mMol, 0.275 gm | OC1(CCNCC1)C=1C=NC2=CC=CC=C2C1 | C14H16N2O
product | 1-(3-(indol-4-yloxy)prop-1-yl)-4-hydroxy-4-(quinolin-3-yl)piperidine | 0.253 gm, 52% | N1C=CC2=C(C=CC=C12)OCCCN1CCC(CC1)(C=1C=NC2=CC=CC=C2C1)O | C25H27N3O2
